US05292771
3-[[(4-(2-Phenylethoxy)phenyl]methylene]-2,4-pentanedione
The procedure described in example 8 was repeated by using 5.9 g of 4-(2-phenylethoxy)benzaldehyde, 3.9 ml of 2,4-pentanedione, 26 ml of trifluoroacetic acid and 2.1 ml of thionyl chloride. Yield 4.7 91 an viscous oil.

reactant | 4-(2-phenylethoxy)benzaldehyde | 5.9 g | C1(=CC=CC=C1)CCOC1=CC=C(C=O)C=C1 | C15H14O2
reactant | 2,4-pentanedione | 3.9 ml | CC(CC(C)=O)=O | C5H8O2
reactant | trifluoroacetic acid | 26 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | thionyl chloride | 2.1 ml | S(=O)(Cl)Cl | Cl2OS
product | [(4-(2-Phenylethoxy)phenyl]methylene]-2,4-pentanedione | C1(=CC=CC=C1)CCOC1=CC=C(C=C1)C=CC(CC(C)=O)=O | C20H20O3
